US08754226B2
Tributylphosphine (2.0 mL, 7.8 mmol) was added slowly to a degassed solution of di-tert-butyl diazene-1,2-dicarboxylate (1.8 g, 7.8 mmol) in dry THF (30 mL) at ambient temperature. The resulting mixture was stirred for 5 minutes, then added dropwise to a 0° C. solution of (S)-tert-butyl 4-(2-(4-bromo-2-fluoro-5-methylphenoxy)-4-hydroxybutanamido)piperidine-1-carboxylate (3.2 g, 6.5 mmol) in THF (30 mL). The reaction was allowed to stir at ambient temperature overnight. Another 1.2 equivalents of reagents (tributylphosphine, tert-butyl diazene-1,2-dicarboxylate, and THF, prepared in same fashion) was added to the reaction mixture, and the reaction was stirred overnight. The reaction was concentrated and purified over silica gel (35 to 50% EtOAc in hexanes) to afford (S)-tert-butyl 4-(3-(4-bromo-2-fluoro-5-methylphenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (2.3 g, 4.9 mmol, 75% yield) as a white solid.

reactant | Tributylphosphine | 7.8 mmol, 2.0 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | di-tert-butyl diazene-1,2-dicarboxylate | 7.8 mmol, 1.8 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | (S)-tert-butyl 4-(2-(4-bromo-2-fluoro-5-methylphenoxy)-4-hydroxybutanamido)piperidine-1-carboxylate | 6.5 mmol, 3.2 g | BrC1=CC(=C(O[C@H](C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)CCO)C=C1C)F | C21H30BrFN2O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-(3-(4-bromo-2-fluoro-5-methylphenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 4.9 mmol, 2.3 g, 75% yield | BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1C)F | C21H28BrFN2O4
